US07301033B2
Synthesis of methyl 3-[4-(N-Benzoxazol-2-yl)aminobutoxy]benzoate
Methyl 3-(4-aminobutoxy)benzoate (4.81 g) was dissolved in 50.0 mL of tetrahydrofuran and N,N-diisopropylethylamine (2.90 g, 22.4 mmol) was added. Under cooling, 2-chlorobenzoxazole (3.44 g, 22.4 mmol) was added dropwise thereto and stirred overnight at room temperature. Following the addition of water, the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine. The organic layer was dried with sodium sulfate and then concentrated under reduced pressure, followed by purification by silica gel column chromatography (hexane:ethyl acetate=4:1) to give a compound of interest (3.22 g, 50.7%).

reactant | Methyl 3-(4-aminobutoxy)benzoate | 4.81 g | NCCCCOC=1C=C(C(=O)OC)C=CC1 | C12H17NO3
reactant | N,N-diisopropylethylamine | 22.4 mmol, 2.90 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-chlorobenzoxazole | 22.4 mmol, 3.44 g | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | water | O | H2O
solvent | tetrahydrofuran | 50.0 mL | O1CCCC1 | C4H8O
product | methyl 3-[4-(N-Benzoxazol-2-yl)aminobutoxy]benzoate | O1C(=NC2=C1C=CC=C2)NCCCCOC=2C=C(C(=O)OC)C=CC2 | C19H20N2O4
